US07098337B2
e) (R)-6-Bromo-1-(2-tert-butoxycarbonylamino-1-methyl-ethyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester
This compound was prepared in analogy to Example 1, intermediate a) from 6-bromo-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester, potassium tert-butoxide and (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester.

reactant | 6-bromo-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=NC(=CC2)Br)N1 | C10H9BrN2O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
product | (R)-6-Bromo-1-(2-tert-butoxycarbonylamino-1-methyl-ethyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=NC(=CC2)Br)N1[C@@H](CNC(=O)OC(C)(C)C)C | C18H24BrN3O4
